US06440985B1
5-(2,4-Dihydroxyphenylmethylene)-2-thioxodihydropyrimidine-4,6-dione
To a solution of 0.144 9 (1 mmol) of 4,6-dihydroxy-2-mercaptopyrimidine and 2 ml of acetic acid in 2 ml of DMF was added a solution of 2,4-dihydroxybenzaldehyde (1 mmol) in 2 ml of DMF. The suspension was heated to 80° C. under nitrogen for 16 hours. Upon cooling to room temperature, the reaction was poured into water and the precipitate collected by filtration. The crude product was washed with water, and the solid boiled in methanol for 1 minute. Filtration provided 2.6 mg of product.

reactant | 4,6-dihydroxy-2-mercaptopyrimidine | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | 2,4-dihydroxybenzaldehyde | 1 mmol | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(2,4-Dihydroxyphenylmethylene)-2-thioxodihydropyrimidine-4,6-dione | 2.6 mg | OC1=C(C=CC(=C1)O)C=C1C(NC(NC1=O)=S)=O | C11H8N2O4S
